Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bilateral leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMHx HIV/AIDS (recently diagnosed, last CD4 120, viral load 
369k, on Bactrim), Hepatitis B (recently diagnosed, HBV viral 
load 6 million, Hep B Ag positive) recently started on Truvada 
and Dolutegravir one wk prior to admission (for treatment of HIV 
and HepB), recently admitted to OSH for pneumonia ___ 
Legionella and Strep pneumonia c/b ___ strep bacteremia, 
oropharyngeal candidiasis and herpes labialis), admitted w/ 
bilateral leg pain.

Of note, patient was recently admitted to ___ 
___ to ___ for pneumonia secondary to Legionella and 
Strep pneumonia, with hospital course c/b pan-sensitive strep 
bacteremia, for which he has since completed a course of 
penicillin and azithromycin.  His course was complicated by a 
new diagnosis of HIV.  He was found to have a HIV RNA viral load 
of 639,000, and a CD4 count of 120, so he was started on Bactrim 
for PCP ___.  He was also found to have hepatitis B, 
with a viral load of 6 million, and Hepatitis E Ag positivity.  
Other hepatitis serologies showed Hepatitis A immune, and 
negative HCV.  Pt has since followed up with Dr. ___ 
Infectious ___, and was started on Emtricitabine-Tenofovir 
(Truvada) and Dolutegravir for treatment of hepatitis B and HIV, 
which was started 1 week prior to admission.  Of note, during 
his hospital course, pt was also found to have oropharyngeal 
candidiasis, for which he was treated for 1 week with Diflucan, 
and then switched to oral nystatin due to cholestasis.  He was 
also treated with Valtrex for Herpes Labialis.  

Since discharge, pt has had intermittent leg pain in his 
posterior thighs and calves that is exacerbated by walking.  
Characterized as crampy and sharp, and relieved by NSAIDs.  No 
associated chest pain or shortness of breath.  No preceding 
trauma.  No associated back pain, weakness, numbness or 
tingling.  

In the ED, initial vitals were: 99.2, 73, 132/67, 18, 99% RA. 
His labs showed Na 127, D-dimer 1629, CK 18, AST 130, ALT 132, 
Alk Phos 321, Albumin of 2.6. CXR showed a patchy left base 
opacity c/f atelectasis or PNA. CTA also showed concerning signs 
of atypical PNA but was negative for PE. He was given 
vancomycin/cefepime and ketorolac and admitted for further 
evaluation and monitoring.

On arrival to the floor, antibiotics were discontinued.  No 
issues overnight.  This morning, pt reports pain improved with 
NSAIDs.  No fevers, chills.  No sore throat.  No difficulty 
swallowing or SOB.  No cough.  He does report 8kg weight loss 
over past few months. No night sweats.  No urinary or bowel 
symptoms.
 
Past Medical History:
- HIV/AIDS: diagnosed ___, at which time CD4 count 
129, HIV viral load 639,000. Followed by Dr. ___.  Started 
Truvada and Doluegravir one week prior to admission. On Bactrim 
for PCP ___.
- Hepatitis B: diagnosed ___, at which time HBV viral 
load 6 million, hep B E Ag positive). Per OSH records, patient 
is Hep A immune and no evidence of Hep C.
- Recent pneumonia ___ legionella pneumonia and strep pneumonia, 
c/b pan-sensitive Streptococcal pneumonia (has since completed 
course of penicillin and Azithromycin)
- Oropharyngeal candidiasis (recently diagnosed ___, took 
fluconazole x 5 days then switched to nystatin) 
- cholelithiasis
- Herpes Labialis, treated w/ valacyclovir
- Depression, treated with sertraline and mirtazapine
- s/p appy
 
Social History:
___
Family History:
Father died at age of ___.  Sister ___ rom stroke recently at 
the age of ___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 Vitals: 98.4 113/61 92 18 96%RA
 General: sitting in chair comfortably, NAD
 HEENT: PEERLL, MMM, non-erythematous, no petechiae, no thrush
 Neck: Supple, JVP not elevated, no LAD  
 CV: RRR, +S1 and S2, no m/r/g
 Lungs: Good respiratory effort, CTAB, no wheezes/rhonchi/rales
 Abd: soft, NT/ND, no rebound or guarding, no fluid wave
 Back: no tenderness of spinal processes  
 Ext: no erythema or swelling. No tenderness of calves. Intact 
distal pulses.
 Neuro: alert, oriented x3, CNII-XII intact, ambulating well

DISCHARGE PHYSICAL EXAM
Vitals: Tmax 98.6, BP 119-126/65-85, HR 89-94, RR 18, O2 
97-100%RA
 General: thin, sitting in chair comfortably, NAD
 HEENT: PEERLL, MMM, non-erythematous, no petechiae, no thrush
 Neck: Supple, JVP not elevated, no LAD  
 CV: RRR, +S1 and S2, no m/r/g
 Lungs: Good respiratory effort, CTAB, no wheezes/rhonchi/rales
 Abd: soft, NT/ND, no rebound or guarding, no fluid wave, liver 
edge and spleen tip not palpated
 Back: no tenderness of spinal processes  
 Ext: Tenderness of calves on palpation, no erythema or 
swelling. Intact distal pulses.
 Neuro: alert, oriented x3, CNII-XII intact, ___ strength in 
iliopsoas, quads, gastrocs, and TA. Light touch sensation intact 
bilaterally on both lower extremities.
 
Pertinent Results:
LABORATORY STUDIES ON ADMISSION
=======================================
___ 05:05PM BLOOD WBC-9.8 RBC-3.79* Hgb-11.1* Hct-33.9* 
MCV-89 MCH-29.3 MCHC-32.7 RDW-20.1* RDWSD-63.9* Plt ___
___ 05:05PM BLOOD Neuts-35.5 ___ Monos-11.7 Eos-4.3 
Baso-0.4 Im ___ AbsNeut-3.46 AbsLymp-4.53* AbsMono-1.14* 
AbsEos-0.42 AbsBaso-0.04
___ 05:05PM BLOOD Glucose-118* UreaN-18 Creat-0.8 Na-127* 
K-3.9 Cl-97 HCO3-24 AnGap-10
___ 05:05PM BLOOD ALT-130* AST-132* CK(CPK)-18* 
AlkPhos-321* TotBili-1.1
___ 05:05PM BLOOD Albumin-2.6*
___ 05:05PM BLOOD D-Dimer-1629*
___ 06:51PM BLOOD Lactate-1.2
___ 09:48PM URINE Color-Yellow Appear-Hazy Sp ___
___ 09:48PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 09:48PM URINE RBC-15* WBC-4 Bacteri-NONE Yeast-NONE 
Epi-0
___ 09:48PM URINE CastHy-1*
___ 09:48PM URINE Hours-RANDOM UreaN-1237 Creat-102 Na-72 
K-46 Cl-59 TotProt-69 Prot/Cr-0.7*
___ 09:48PM URINE U-PEP-PND Osmolal-746

MICROBIOLOGY
=======================================
BLOOD CULTURE: PENDING

RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

IMAGING
=======================================
CTA (___)
IMPRESSION:   
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Wall thickening of the esophagus suggesting esophagitis. 
3. Streaky areas of interlobular septal thickening and 
___ opacities bilaterally suggesting developing atypical 
infectious process. 
4. Segmental and subsegmental dependent atelectasis. 

CHEST (PA & LAT) Study Date of ___  
IMPRESSION: Patchy left base opacity could be due to atelectasis 
or pneumonia. Additional streaky bilateral upper lobe opacities 
are of indeterminate age. No priors for comparison  

LABORATORY STUDIES ON DISCHARGE
=======================================
___ 06:40AM BLOOD WBC-7.8 RBC-3.52* Hgb-10.2* Hct-32.0* 
MCV-91 MCH-29.0 MCHC-31.9* RDW-19.9* RDWSD-63.6* Plt ___
___ 05:05PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 06:40AM BLOOD Glucose-79 UreaN-16 Creat-0.8 Na-129* 
K-4.8 Cl-101 HCO3-23 AnGap-10
___ 06:40AM BLOOD ALT-91* LD(LDH)-125 AlkPhos-277* 
TotBili-0.9
___ 06:40AM BLOOD Calcium-8.1* Phos-3.0 Mg-1.9
___ 01:05PM BLOOD calTIBC-222* VitB12-___* Folate-8.8 
Ferritn-648* TRF-171*
___ 06:35AM BLOOD Triglyc-104 HDL-22 CHOL/HD-7.1 
LDLcalc-113
___ 05:05PM BLOOD Osmolal-280
___ 06:40AM BLOOD TSH-2.4
___ 01:05PM BLOOD PEP-PND FreeKap-290.5* FreeLam-70.6* Fr 
K/L-4.12* IgG-PND IgA-PND IgM-PND IFE-PND
___ 06:51PM BLOOD Lactate-1.2
___ 09:48PM URINE Hours-RANDOM UreaN-1237 Creat-102 Na-72 
K-46 Cl-59 TotProt-69 Prot/Cr-0.7*
___ 09:48PM URINE U-PEP-PND Osmolal-___ PMHx HIV/AIDS (recently diagnosed, last CD4 120, viral load 
369k, on Bactrim), Hepatitis B (recently diagnosed, HBV viral 
load 6 million, Hep B Ag positive) recently started on Truvada 
and Dolutegravir one wk prior to admission (for treatment of HIV 
and HepB), recently admitted to OSH for pneumonia ___ 
Legionella and Strep pneumonia c/b ___ strep bacteremia, 
oropharyngeal candidiasis and herpes labialis), admitted w/ 
bilateral leg pain of unclear etiology.

# Bilateral leg pain:
Pt presented with a one week history of crampy lower leg pain 
with no associated sensory deficits.  Electrolytes notable for 
hyponatremia but with normal serum osmolality, and were 
otherwise normal.  Normal CK inconsistent with rhabdomyolysis.  
Bilateral lower extremity duplex ultrasounds showed no evidence 
of deep venous thrombosis in the right or left lower extremity 
veins, but did ___ level internal echoes within the right 
distal popliteal vein, likely related to slow flow.  Of note, pt 
recently started HAART, which could have possible caused muscle 
cramps.  Infectious Disease was consulted, who recommended 
switching Dolutegravir to Darunavir and Ritonivir due to concern 
of Dolutegravir-induced myositis. Pt was discharged home with 
close Infectious Disease and PCP ___.

# HIV/AIDS
Pt w/ recently diagnosed HIV/AIDS in ___, at which 
time he was found to have a CD4 count of 120, and a viral load 
639,000.  He has been on Bactrim for PCP ___. Followed 
by Dr. ___ Infectious ___.  He was recently started 
on Emtricitabine-Tenofovir (Truvada) and Dolutegravir for 
treatment of hepatitis B and HIV.  During admission, he was 
switched from Dolutegravir to Darunavir and Ritonivir due to 
concern of Dolutegravir-induced myositis.  He was discharged 
home with Infectious Disease ___ scheduled.

# Hepatitis B infection
Pt has recently diagnosed Hepatitis B in ___, at which 
time his HBV viral load was 6 million, and he was Hep B Ag 
positive.  Other hepatitis serologies from OSH showed Hepatitis 
A immune, and negative HCV.  His transaminases have been 
downtrending since his OSH hospitalization in ___. During 
admission, pt was continued on Truvada.  He was discharged home 
with ___ scheduled with Infectious Disease.

# Hyponatremia
Pt noted to have hyponatremia but with a normal osmolality, 
likely secondary to hyperproteinemia causing a falsely low 
sodium.  Sodium adjusted to 131 when accounted for 
hyperproteinemia. 

# Esophagitis
Pt noted to have wall thickening of the esophagus suggesting 
esophagitis on CT scan. Unclear etiology, possibly secondary to 
___ versus herpes, given recent oropharyngeal candidiasis 
and recent Herpes Labialis.  Pt remained asymptomatic during 
admission, so endoscopy was deferred, but could be pursued as an 
outpatient for further evaluation.

# Elevated gamma gap
Pt noted to have elevated gamma gap of 6.6 (normal <4 g/dL) 
likely secondary to acute HIV infection, although differential 
also includes blood cell dyscrasias like multiple myeloma and 
monoclonal gammopathy of unknown significance (SPEP, UPEP and 
SFLC pending on discharge).
 
CHRONIC ISSUES: 
==================================
# Anemia
Pt noted to have normocytic anemia. Iron studies consistent with 
anemia of chronic disease, most likely due to underlying HIV and 
HBV.  Pt remained hemodynamically stable and did not require 
transfusions during hospitalizations.

# Protein calorie malnutrition
Likely secondary to HIV/AIDS, Hepatitis B, depression (with 
recent deaths in the family), and recent hospitalization.  
Albumin 2.6 on ___. Received nutrition consult, who 
recommended Ensure Plus TID.  Pt continued home Mirtazapine.

# Depression: continued home Mirtazapine 15 mg PO QHS
 

TRANSITIONAL ISSUES
==================================
1. Pt noted to have wall thickening of the esophagus suggesting 
esophagitis on CT scan.  Pt may benefit from outpatient 
endoscopy for further workup.
2. Pt recently discontinued Sertraline 50 mg PO daily.  Pt may 
benefit from restarting Sertraline in the future. 
3. Pt was taking Bactrim DS daily, which was changed to Bactrim 
SS daily on discharge for PCP ___.
4. Pt may benefit from outpatient ABI for evaluation of possible 
claudication.
5. Home dose Dolutegravir discontinued due to concern of 
Dolutegravir-induced myositis. He was started on Darunavir and 
Ritonivir instead.
6. F/u leg pain. Patient discharged with oxycodone 5mg PO q4hrs 
prn pain (discharged with 20 tablets)

# CODE:  full, confirmed
# CONTACT:  ___ (Husband, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO QHS 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
4. Dolutegravir 50 mg PO DAILY 

 
Discharge Medications:
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
2. Mirtazapine 15 mg PO QHS 
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. Darunavir 800 mg PO DAILY 
5. RiTONAvir 100 mg PO DAILY 
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
This medication can cause sedation. Avoid driving. Also may 
cause constipation. 
RX *oxycodone 5 mg 1 capsule(s) by mouth Q4H: PRN Disp #*20 
Capsule Refills:*0
7. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth Daily Disp #*30 Tablet Refills:*0
8. Docusate Sodium 100 mg PO BID:PRN constipation  
Take for constipation. Hold for loose stool. 
9. Senna 8.6 mg PO BID:PRN constipation  
Take for constipation. Hold for loose stool. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- bilateral leg pain of unclear etiology, possibly from 
Dolutegravir-induced myositis

SECONDARY:
- HIV/AIDS
- Hepatitis B infection
- Protein calorie malnutrition
- Anemia
- Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  You were admitted 
because of your worsening leg pain.  It is unclear what is 
causing your leg pain.  It is possibly from your Dolutegravir, 
so we switched you to Darunavir and Ritonavir instead.  

Sincerely,
Your ___ team
 
Followup Instructions:
___